US08022222B2
tert-Butyl 2-(3-(2-(4-methylthiazol-2-ylamino)-pyridin-4-yloxy)phenoxy)acetate
A mixture of potassium carbonate (3.00 g, 21.7 mmol), 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenol (0.750 g; 2.51 mmol), and tert-butyl 2-bromoacetate (0.489 g, 2.51 mmol) was stirred in DMF (20 mL) overnight at room temperature. The reaction mixture was partitioned between ethyl acetate and water, and the ethyl acetate was washed with water and brine, dried and concentrated. The residue was purified via MPLC (Biotage) eluting with 3:2 hexane:ethyl acetate to afford the desired product as a white powder. 1H NMR (d6-DMSO) δ 11.01 (s, 1H), 8.16 (d, 1H), 7.38 (t, 1H), 6.85 (d, 1H), 6.79 (d, 1H), 6.74 (s, 1M), 6.56 (s, 1H), 6.49-6.52 (m, 2H), 4.68 (s, 2H), 2.21 (s, 3H), 0.90 (s, 9H).

reactant | potassium carbonate | 21.7 mmol, 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenol | 2.51 mmol, 0.750 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C=CC1)O | C15H13N3O2S
reactant | tert-butyl 2-bromoacetate | 2.51 mmol, 0.489 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(3-(2-(4-methylthiazol-2-ylamino)-pyridin-4-yloxy)phenoxy)acetate | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C21H23N3O4S
